US07557131B2
Preparation 83: 3-Methoxy-4-[(3R)-pyrrolidin-3-yloxy]benzonitrile
4-Hydroxy-3-methoxybenzonitrile (12 g, 80.2 mmol) and triphenylphosphine (21 g, 80.2 mmol) were added portionwise to an ice-cold solution of tert-butyl (3S)-3-hydroxypyrrolidine-1-carboxylate (15 g, 80.2 mmol) in tetrahydrofuran (225 mL). A solution of diisopropyl azodicarboxylate (16.2 g, 80.2 mmol) in tetrahydrofuran (100 mL) was then added dropwise and the mixture was stirred at room temperature for 18 hours. The reaction mixture was then concentrated in vacuo and the residue was treated with hydrochloric acid (4M in dioxane, 250 mL). The mixture was concentrated in vacuo and the residue was partitioned between ethyl acetate and water. The organic layer was separated and washed with water (100 mL), and the combined aqueous solution was washed with ethyl acetate (2×150 mL), basified to pH10 with solid potassium carbonate and extracted with ethyl acetate (2×250 mL). The combined organic solution was washed with brine (100 mL), dried over magnesium sulfate and concentrated in vacuo to afford the title compound as a cream solid in 67% yield, 11.8 g. LRMS ESI m/z 219 [M+H]+

reactant | 4-Hydroxy-3-methoxybenzonitrile | 80.2 mmol, 12 g | OC1=C(C=C(C#N)C=C1)OC | C8H7NO2
reactant | triphenylphosphine | 80.2 mmol, 21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl (3S)-3-hydroxypyrrolidine-1-carboxylate | 80.2 mmol, 15 g | O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | diisopropyl azodicarboxylate | 80.2 mmol, 16.2 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 225 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3-Methoxy-4-[(3R)-pyrrolidin-3-yloxy]benzonitrile | 67% yield | COC=1C=C(C#N)C=CC1O[C@H]1CNCC1 | C12H14N2O2
